US06353006B1
(1R)-1-Cyclohexyl-1-ethylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-((1R)-1-cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-((1R)-1-Cyclohexyl-1-ethyl)-N-(2,2dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2,3-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,3-dichlorophenylimino)-3-((1R)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | N-((1R)-1-Cyclohexyl-1-ethyl)-N-(2,2dimethyl-2-hydroxyethyl)amine | C1(CCCCC1)[C@@H](C)NCC(O)(C)C | C12H25NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2,3-dichlorophenyl isothiocyanate | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
product | 2-(2,3-dichlorophenylimino)-3-((1R)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt | Cl.ClC1=C(C=CC=C1Cl)N=C1SC(CN1[C@H](C)C1CCCCC1)(C)C | InChI=1S/C19H26Cl2N2S.ClH/c1-13(14-8-5-4-6-9-14)23-12-19(2,3)24-18(23)22-16-11-7-10-15(20)17(16)21;/h7,10-11,13-14H,4-6,8-9,12H2,1-3H3;1H/t13-;/m1./s1
